US06414002B1
To a −70° C. solution of 3-fluoro-4-methyl anisole (1.62 g; 11.6 mmol) in CH2Cl2 (10 mL) was added dropwise BBr3 (10 mL; 12 mmol). The reaction mixture was stirred at −70° C. for 10 min, then allowed to warm to 0° C. and stirred at 0° C. for 2 h. The reaction was allowed to warm to RT and concentrated in vacuo and the residue was partitioned between H2O and EtOAc. The organic phase was washed with H2O, dried (Na2SO4) and concentrated in vacuo to give 3-fluoro-4-methyl phenol (1.1 g; 75%) as an oil.

reactant | 3-fluoro-4-methyl anisole | 11.6 mmol, 1.62 g | FC=1C=C(C=CC1C)OC | C8H9FO
reactant | BBr3 | 12 mmol, 10 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-methyl phenol | 1.1 g, 75% | FC=1C=C(C=CC1C)O | C7H7FO
